US04108896
In each of four Carius tubes is placed 10 g of 1,5-bis(5-chlorovaleryl)anthracene (0.024 mole), 80 ml of diethylamine and 40 ml of tetrahydrofuran. The tubes are heated to 110° C. for 30 hours, cooled and their contents combined. The volatile components are evaporated in vacuo and the residue is slurried with 400 ml of chloroform. The organic phase is extracted twice with 100 ml portions of water, and two additional times with 100 ml portions of 10% HCl solution. The combined acid extracts are neutrallized using a cold 50% sodium hydroxide solution and reextracted with two 100 ml portions of chloroform. The combined chloroform extracts are dried over magnesium sulfate, filtered, evaporated to dryness and the residue is crystallized from n-heptane to give 36 g of 1,5-bis(5-diethylaminovaleryl)anthracene having a m.p. of 65°-7° C.

reactant | 1,5-bis(5-chlorovaleryl)anthracene | 0.024 mole, 10 g | ClCCCCC(=O)C1=CC=CC2=CC3=C(C=CC=C3C=C12)C(CCCCCl)=O | C24H24Cl2O2
reactant | diethylamine | 80 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1,5-bis(5-diethylaminovaleryl)anthracene | 36 g | C(C)N(CCCCC(=O)C1=CC=CC2=CC3=C(C=CC=C3C=C12)C(CCCCN(CC)CC)=O)CC | C32H44N2O2
